US06403561B1
Preparation of Ethyl 2-oxo-3-methylbutanoate
Isopropylmagnesium chloride (2.0M in ether, 200 mmol) was added to a solution of diethyl oxalate (29.23 g, 20.0 mmol) in dry diethyl ether (100 ml) at −70° C. over a period of one hour. The mixture was stirred at −70° C. for a further half an hour and then poured immediately into a vigorously stirred suspension of ice (80 g), diethyl ether (100 ml) and concentrated HCl (18 ml). The aqueous phase was separated out and the organic phase washed with water (100 ml) and then dried (MgSO4) and the solvent was removed in order to leave the desired product in the form of a colourless oil.

reactant | Isopropylmagnesium chloride | 200 mmol, 2.0M | C(C)(C)[Mg]Cl
reactant | diethyl oxalate | 20.0 mmol, 29.23 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 18 ml | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Ethyl 2-oxo-3-methylbutanoate | O=C(C(=O)OCC)C(C)C | C7H12O3
